US07429609B2
3-(Naphthalen-2-yl)-1H-pyrazolo[4,3-b]pyridine-5-carbonitrile
To 10 mL of a solution containing 360 mg of 3-naphthalen-2-yl-1-trityl-1H-pyrazolo[4,3-b]pyridine-5-carbonitrile obtained by Production example 15 in dichloromethane, 3 mL of trifluoroacetic acid was added at room temperature and stirred for 2 hours. The reaction solution was added with aqueous sodium hydrogen carbonate, extracted with ethyl acetate, washed with water, and dried over magnesium sulfate. After evaporating, the residue was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=3:1), to afford 180 mg of the title compound as a colorless powder.

reactant | 3-naphthalen-2-yl-1-trityl-1H-pyrazolo[4,3-b]pyridine-5-carbonitrile | 360 mg | C1=C(C=CC2=CC=CC=C12)C1=NN(C=2C1=NC(=CC2)C#N)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C36H24N4
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(Naphthalen-2-yl)-1H-pyrazolo[4,3-b]pyridine-5-carbonitrile | 180 mg | C1=C(C=CC2=CC=CC=C12)C1=NNC=2C1=NC(=CC2)C#N | C17H10N4
